US08258122B2
a) 2,5-Difluoro-4-iodopyridine
n-BuLi 2.5M in hexanes (4.9 mL, 12.25 mmol) was added to a solution of diisopropylamine (1.7 mL, 12.20 mmol) in tetrahydrofuran (22 mL) at −20° C., under nitrogen atmosphere, over a period of 10 minutes. The solution was stirred at −20° C. for 30 min and then it was cooled to −78° C. A solution of 2,5-difluoropyridine (1.33 g, 11.5 mmol) in tetrahydrofuran (3 mL) was added over a period of 30 min and the mixture was stirred at −78° C. for 4 hours. After this time, a solution of iodine (3.20 g, 12.6 mmol) in tetrahydrofuran (10 mL) was added dropwise and the mixture was stirred at −78° C. for 1 hour. Water (1 mL) and tetrahydrofuran (3 mL) were added and the temperature was allowed to raise until room temperature, then water (25 mL) and aqueous sodium bisulphite 40% p/v (3 mL) were added. The organic layer was separated and the aqueous layer was extracted with diethyl ether (3×50 mL), the combined organic layers were washed with brine, dried over anhydrous magnesium sulphate and the solvent removed under reduced pressure. The residue was purified by silica flash chromatography (5% diethyl ether in hexanes) to yield the title compound (1.35 g, 48%) as a white crystalline solid.

reactant | n-BuLi | 2.5M | [Li]CCCC
reactant | diisopropylamine | 12.20 mmol, 1.7 mL | C(C)(C)NC(C)C | C6H15N
reactant | 2,5-difluoropyridine | 11.5 mmol, 1.33 g | FC1=NC=C(C=C1)F | C5H3F2N
reactant | iodine | 12.6 mmol, 3.20 g | II | I2
reactant | sodium bisulphite | S([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 22 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | water | 25 mL | O | H2O
solvent | Water | 1 mL | O | H2O
product | 2,5-Difluoro-4-iodopyridine | 1.35 g, 48% | FC1=NC=C(C(=C1)I)F | C5H2F2IN
